US09034880B2
2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetic acid (0.57 g, 2.2 mmol) was taken in DCM, cooled to 0° C., oxalyl chloride (0.228 mL, 2.6 mmol) was added, followed by the addition of DMAP (catalytic amount) and stirred for 1 h at RT. Solvent was evaporated under nitrogen, N-methyl piperazine (0.269 mg, 2.4 mmol) and DMAP (80 mg) in DCM was added slowly drop wise at RT (under nitrogen) and stirred at RT for 30 min. Reaction mixture was quenched with water, neutralized with 10% NaHCO3 solution and extracted with ethyl acetate. Organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. Crude product was purified by reverse phase chromatography to afford 100 mg of 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-methylpiperazin-1-yl)ethanone as TFA salt.

reactant | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetic acid | 2.2 mmol, 0.57 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)O)CC1 | C15H18N2O2
reactant | oxalyl chloride | 2.6 mmol, 0.228 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methyl piperazine | 2.4 mmol, 0.269 mg | CN1CCNCC1 | C5H12N2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-methylpiperazin-1-yl)ethanone | 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)N2CCN(CC2)C)CC1 | C20H28N4O
